US08404859B2
Preparation of 3-Cyano-thiophene-2,5-dicarboxylic acid 2-methyl ester
A mixture of 3-Cyano-5-hydroxymethyl-thiophene-2-carboxylic acid methyl ester (0.1342 g, 0.68 mmol) and Periodic Acid (0.34 g, 1.50 mmol) in MeCN (9.5 ml) was stirred for 30 min. A solution of PCC (0.010 g, 0.015 mmol) in MeCN (0.5 ml) was added. After 1 h, the reaction mixture was diluted with EtOAc (50 ml), washed with sodium sulfite, brine, dried over sodium sulfate, filtered and evaporated. Isolate 0.13 g (90%) of beige solid.

reactant | 3-Cyano-5-hydroxymethyl-thiophene-2-carboxylic acid methyl ester | 0.68 mmol, 0.1342 g | COC(=O)C=1SC(=CC1C#N)CO | C8H7NO3S
reactant | Periodic Acid | 1.50 mmol, 0.34 g | I(=O)(=O)(=O)O | HIO4
solvent | MeCN | 9.5 ml | CC#N | C2H3N
solvent | MeCN | 0.5 ml | CC#N | C2H3N
solvent | EtOAc | 50 ml | CCOC(=O)C | C4H8O2
catalyst | PCC | 0.015 mmol, 0.010 g | C=1C=C[NH+]=CC1.[O-][Cr](=O)(=O)Cl
product | 3-Cyano-thiophene-2,5-dicarboxylic acid 2-methyl ester | 0.13 g, 90% | COC(=O)C=1SC(=CC1C#N)C(=O)O | C8H5NO4S
